US04762942
1-(2-Hexyl-4-tetradecylphenoxy)-3-(triphenylmethoxy)-2-propanol
A mixture of 11.64 g of 3-(2-hexyl-4-tetradecylphenoxy)-1,2-propanediol, 12.32 g of trityl chloride and 40 ml of pyridine was stirred for 24 hours, then diluted with chloroform, washed with aqueous sodium bicarbonate, water, dried and the solvents evaporated under reduced pressure. The residue was coevaporated with toluene, giving 14.6 g of the desired compound.

reactant | 3-(2-hexyl-4-tetradecylphenoxy)-1,2-propanediol | 11.64 g | C(CCCCC)C1=C(OCC(CO)O)C=CC(=C1)CCCCCCCCCCCCCC | C29H52O3
reactant | trityl chloride | 12.32 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-Hexyl-4-tetradecylphenoxy)-3-(triphenylmethoxy)-2-propanol | 14.6 g | C(CCCCC)C1=C(OCC(COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O)C=CC(=C1)CCCCCCCCCCCCCC | C48H66O3
